US04695573
9-Benzylamino-6-fluoro-1,2,3,4-tetrahydroacridin-1-ol
To a cooled suspension of 4.85 g of 9-benzylamino-3,4-dihydro-6-fluoroacridin-1(2H)-one in 80 ml of tetrahydrofuran was added 7.5 ml of 1 molar solution of lithium aluminum hydride in THF. This was stirred for 1 hour.

reactant | 9-benzylamino-3,4-dihydro-6-fluoroacridin-1(2H)-one | 4.85 g | C(C1=CC=CC=C1)NC=1C2=CC=C(C=C2N=C2CCCC(C12)=O)F | C20H17FN2O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 9-Benzylamino-6-fluoro-1,2,3,4-tetrahydroacridin-1-ol | C(C1=CC=CC=C1)NC=1C2=CC=C(C=C2N=C2CCCC(C12)O)F | C20H19FN2O
